US04855314
Phenyl 4-[(methylsulphonyl)amino]benzenemethanesulphonate
Methanesulphonyl chloride (1.12 ml) was added to a cooled stirred solution of phenyl 4-aminobenzenemethanesulphonate, hydrochloride (3.0 g) in pyridine (9 ml). The resulting mixture was allowed to warm up to 20° and then stirred for 20 h. The reaction mixture was diluted with EA (150 ml) and washed with 8% NaHCO3 (400 ml), H2O (250 ml) and brine (250 ml). The organic extract was dried (MgSO4) and evaporated to leave a brown gum which was crystallised from toluene (100 ml) to give the crude title compound (as an off-white solid which was recrystallised from toluene (100 ml) to give the title compound (1.25 g) as a white solid m.p. 128°-129°.

reactant | Methanesulphonyl chloride | 1.12 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | phenyl 4-aminobenzenemethanesulphonate, hydrochloride | 3.0 g | Cl.NC1=CC=C(C=C1)CS(=O)(=O)OC1=CC=CC=C1
solvent | pyridine | 9 ml | N1=CC=CC=C1 | C5H5N
solvent | EA | 150 ml | CC(OCC)=O | C4H8O2
product | Phenyl 4-[(methylsulphonyl)amino]benzenemethanesulphonate | 1.25 g | CS(=O)(=O)NC1=CC=C(C=C1)CS(=O)(=O)OC1=CC=CC=C1 | C14H15NO5S2
